US04000302
A solution of 4-methyl-5-[(2-aminoethyl)thiomethyl]-imidazole (17.0 g.) and N-cyano-N',S-dimethylisothiourea (11.2 g.) in acetonitrile (500 ml) was heated under reflux for 24 hours. Following concentration, the residue was chromatographed on a column of silica gel with acetonitrile as eluant and the product obtained was finally recrystallised from acetonitrile-ether to yield N-cyano-N'-methyl-N"-[2-((methyl-5-imidazolyl)methylthio)ethyl]guanidine m.p. 141°-2°.

reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]-imidazole | 17.0 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | N-cyano-N',S-dimethylisothiourea | 11.2 g | C(#N)NC(SC)=NC | C4H7N3S
reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
product | N-cyano-N'-methyl-N"-[2-((methyl-5-imidazolyl)methylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=CN=C(N1)C)NC | C10H16N6S
